US05260453
5,6-(Dihydro-6-hydroxy-2-nitro-7-(4-trifluoromethylbenzamido)-7H-thieno[3,2-b]pyran
The title compound was prepared as described in Example 9 starting with 5,6-dihydro-6-hydroxy-7-(4-trifluoromethylbenzamido)-7H-thieno[3,2-b]pyran (1.5 g, 4.04 mmol) and 90% nitric acid (2.5 mL) in acetic acid (20 mL) to give a yellow solid, 0.165 g (10%): mp 219°-220° C.; IR (KBr): 3310, 1661, 1538 and 1504 cm-1, MS: m/z 417 (MS+) 1H NMR (DMSO-d6): δ 1.26 (s, 3H), 1.45 (s, 3H), 3.92 (m, 1H, simplifies to d, J=8.9 Hz, with D2O), 4.98 (m, 1H, simplifies to d, J=8.9 Hz, with D2O), 5.99 (d, 1H, exchanges with D2O), 7.74 (s, 1H), 7.92 (d, J=8.5 Hz, 2H), 8.12 (d, J=8.5 Hz, 2H) and 9.30 (d, 1H, exchanges with D2O).

reactant | 5,6-dihydro-6-hydroxy-7-(4-trifluoromethylbenzamido)-7H-thieno[3,2-b]pyran | 4.04 mmol, 1.5 g | OC1C(C2=C(OC1)C=CS2)NC(C2=CC=C(C=C2)C(F)(F)F)=O | C15H12F3NO3S
reactant | nitric acid | 2.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | KBr | [K+].[Br-]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | Dihydro-6-hydroxy-2-nitro-7-(4-trifluoromethylbenzamido)-7H-thieno[3,2-b]pyran | OC=1C(C2=C(OC1)CC(S2)[N+](=O)[O-])NC(C2=CC=C(C=C2)C(F)(F)F)=O | C15H11F3N2O5S
